US05925676
By using 2.2 g of 3-cyclopentenol prepared according to the method described in J. Org. Chem., 25, 26-29 (1960) and 9.2 g of t-butyldiphenylsilyl chloride and by the same procedures as in (1) of the intermediate preparation example 1, there was obtained 8.15 g of 3-cyclopenten-1-yl (t-butyldiphenylsilyl) ether. Yield 97%

reactant | 3-cyclopentenol | 2.2 g | C1(CC=CC1)O | C5H8O
reactant | t-butyldiphenylsilyl chloride | 9.2 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
product | 3-cyclopenten-1-yl (t-butyldiphenylsilyl) ether | 8.15 g, Yield 97% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CC=CC1 | C21H26OSi
